datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]([H:15])[H:16])[C:6]([H:17])([H:18])[H:19],25.9408
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])([H:5])[H:6],24.5601
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:9],163.176
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8]([H:23])([H:24])[H:25])=[C:9]([C:10]([H:27])([H:28])[H:29])[H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]1([C:10]([H:27])([H:28])[H:29])[H:26])[H:13])([H:11])[H:12],70.5841
[C:4]([H:5])([H:6])[H:7].[N:0]([O:1])([H:2])[H:3]>>[H:2][C:4]([H:5])([H:6])[H:7].[N:0](=[O:1])[H:3],12.3846
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]([H:14])([H:15])[H:16],7.1128
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0]([C:1](=[C:2][C:3]([H:7])([H:8])[H:9])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:4])([H:5])[H:6],25.3132
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([S:13][H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12]([S:13][H:16])([H:14])[H:15],-1.2552
[C:0]([C:1](=[C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:18])[H:19])([H:16])[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:9])([H:10])[H:11],68.9942
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])([H:12])([H:13])[H:14]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],50.208
[C:0](#[C:1][C:2]=[S:3])[H:4].[S:5]=[C:6]([C:7]([S:8][H:12])([H:10])[H:11])[H:9]>>[C:0](#[C:1][C:2](=[S:3])[H:10])[H:4].[S:5]=[C:6]([C:7]([S:8][H:12])[H:11])[H:9],64.0152
[C:0](=[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])[H:8])[H:7]>>[C:0]1([H:7])=[C:1]([H:8])[C:2]2([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])[C:6]12[H:13],41.04504
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:23])([H:24])[H:25])([C:17](=[S:18])[H:26])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:22])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:23])([H:24])[H:25])[C:17](=[S:18])[H:26])([H:19])([H:20])[H:21],57.7392
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[H:17])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:16])([C:15]([H:18])([H:19])[H:20])[H:17],66.7348
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([H:9])([H:10])[H:11].[C:1](=[C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:14])([H:12])[H:13],150.280912
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:19]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][H:19],32.2168
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23])[H:7],28.9951
